US07186742B2
5-Acetyl-2-chloro-benzoic acid methyl ester
A mixture of 2-chloro-5-trimethylsilanylethynyl-benzoic acid methyl ester (3.2 g, 12 mmol) in formic acid (50 mL) was heated at reflux for 16 h. The mixture was cooled to room temperature and concentrated in vacuo. The residue was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was dried, filtered and concentrated in vacuo to afford the title compound (1.4 g).

reactant | 2-chloro-5-trimethylsilanylethynyl-benzoic acid methyl ester | 12 mmol, 3.2 g | COC(C1=C(C=CC(=C1)C#C[Si](C)(C)C)Cl)=O | C13H15ClO2Si
reactant | formic acid | 50 mL | C(=O)O | CH2O2
product | 5-Acetyl-2-chloro-benzoic acid methyl ester | 1.4 g | COC(C1=C(C=CC(=C1)C(C)=O)Cl)=O | C10H9ClO3
